US04119669
Preparation of N-sec-butyl-3,4-Xylidine
Molecular sieves (Type 5A, 300 gm.) are added to 79.2 g. (1.0 mole) of methyl ethyl ketone and 121.0 g. (1.0 mole) of 3,4-dimethylaniline in 1 liter of dry benzene solvent. The reaction mixture is stirred at room temperature for 16 hours. The mixture is then filtered from the molecular sieves which are washed with dry benzene. The benzene solutions are combined and evaporated in vacuo leaving 198 g. (100%) of the desired product. The product is sensitive to hydrolysis and is therefore reduced immediately in a Parr hydrogenator using a 5% palladium on carbon catalyst to give N-sec-butyl-3,4-xylidine.

reactant | methyl ethyl ketone | 1.0 mole | C(C)C(=O)C | C4H8O
reactant | 3,4-dimethylaniline | 1.0 mole | CC=1C=C(N)C=CC1C | C8H11N
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | N-sec-butyl-3,4-Xylidine | 100% | C(C)(CC)NC1=CC(=C(C=C1)C)C | C12H19N
